US06599925B2
1-{2-[5-Bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-yl]-5-chloro-benzofuran-3-yl}-pentan-1-one
Following the procedure described in Step 6, of Example 1, the title compound was prepared from [1-bromo-6-(5-chloro-3-pentanoyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetonitrile (0.4 g, 0.8 mmol), sodium azide (0.325 g, 5 mmol) and ammonium chloride (0.268 g, 5 mmol) in DMF (20 mL). The compound was purified by flash chromatography on acid treated silica gel using 50% ethyl acetate in hexane as the mobile phase. The title compound was obtained as an off-white solid (0.32 g), mp 133-135° C. Mass spectrum (−ESI, [M−H]−) m/z 537. 1HNMR (400 MHz, DMSO-d6): δ8.51 (d, 1H, J=1.5 Hz), 8.26-8.20 (m, 2H), 8.03-7.99 (m, 2H), 7.80-7.76 (m, 2H), 7.48 (dd, 1H, J=8.8, 2.2 Hz), 5.78 (s, 2H), 2.73 (t, 2H, J=7.3 Hz), 1.56-1.49 (m, 2H), 1.17-1.08 (m, 2H), and 0.70 ppm (t, 3H, J=7.3 Hz). Elemental Analysis for C25H20BrClN4O3: Calculated: C, 55.63; H, 3.73; N, 10.38. Found: C, 55.54; H, 3.59; N, 10.24.

reactant | [1-bromo-6-(5-chloro-3-pentanoyl-benzofuran-2-yl)-naphthalen-2-yloxy]-acetonitrile | 0.8 mmol, 0.4 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1C(CCCC)=O)C=C(C=C2)Cl)OCC#N | C25H19BrClNO3
reactant | sodium azide | 5 mmol, 0.325 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 5 mmol, 0.268 g | [Cl-].[NH4+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-{2-[5-Bromo-6-(1H-tetrazol-5-ylmethoxy)-naphthalen-2-yl]-5-chloro-benzofuran-3-yl}-pentan-1-one | BrC1=C2C=CC(=CC2=CC=C1OCC1=NN=NN1)C=1OC2=C(C1C(CCCC)=O)C=C(C=C2)Cl | C25H20BrClN4O3
